US08981104B2
1-(Chloromethyl)-4-{2-[4-(trifluoromethyl)phenyl]ethyl}benzene
At 0° C., 3.78 ml of thionyl chloride in 30 ml of dichloromethane were slowly added dropwise to a solution of 9.69 g (34.57 mmol) of (4-{2-[4-(trifluoromethyl)phenyl]ethyl}phenyl)methanol in 100 ml of dichloromethane. After the addition had ended, the reaction mixture was warmed to room temperature and stirred at this temperature for two hours. The reaction mixture was then once more cooled to 0° C., and 100 ml of saturated aqueous sodium bicarbonate solution were added slowly and carefully with vigorous stirring until a pH of 6 had been reached. The phases were then separated, and the organic phase was dried over magnesium sulphate, filtered and concentrated to dryness. This gave 8.64 g (28.92 mmol, 84% of theory) of the title compound.

reactant | thionyl chloride | 3.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (4-{2-[4-(trifluoromethyl)phenyl]ethyl}phenyl)methanol | 34.57 mmol, 9.69 g | FC(C1=CC=C(C=C1)CCC1=CC=C(C=C1)CO)(F)F | C16H15F3O
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(Chloromethyl)-4-{2-[4-(trifluoromethyl)phenyl]ethyl}benzene | ClCC1=CC=C(C=C1)CCC1=CC=C(C=C1)C(F)(F)F | C16H14ClF3
